US03952104
An aqueous solution containing 5 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid and 1.07 parts of ethylamine (70% v/v) was filtered and freeze-dried to give 5 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid ethylamine salt hemihydrate as a pale yellow solid, m.p. 135°-137° C.

reactant | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C | C18H20O5
reactant | ethylamine | C(C)N | C2H7N
product | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid ethylamine salt hemihydrate | O.C(C)N.C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C.C(C=C)C2=CC=C(C=1C(C=C(OC12)C(=O)O)=O)OCCC(C)C.C(C)N | InChI=1S/2C18H20O5.2C2H7N.H2O/c2*1-4-5-12-6-7-14(22-9-8-11(2)3)16-13(19)10-15(18(20)21)23-17(12)16;2*1-2-3;/h2*4,6-7,10-11H,1,5,8-9H2,2-3H3,(H,20,21);2*2-3H2,1H3;1H2
